* source TCAM 
X_U1         N00403 N01245 N00416 N00544 M_UN0001 $G_DPWR $G_DGND RSFF
X_U4         N00820 N00548 S0 N00403 $G_DPWR $G_DGND AND3
X_U5         N00820 N00617 S0 N00416 $G_DPWR $G_DGND AND3
X_U6         RW N00544 S0 N00800 $G_DPWR $G_DGND AND3
X_U7         N00548 N00617  $G_DPWR $G_DGND INV
X_U8         RW N00820  $G_DPWR $G_DGND INV
X_U10         N01847 N00548 S1 N01709 $G_DPWR $G_DGND AND3
X_U9         N01709 N01245 N01721 N01757 M_UN0002 $G_DPWR $G_DGND RSFF
X_U12         RW N01757 S1 N01841 $G_DPWR $G_DGND AND3
X_U11         N01847 N01787 S1 N01721 $G_DPWR $G_DGND AND3
X_U13         N00548 N01787  $G_DPWR $G_DGND INV
X_U14         RW N01847  $G_DPWR $G_DGND INV
X_U16         N03869 N03813 S0 N03731 $G_DPWR $G_DGND AND3
X_U20         RW N03869  $G_DPWR $G_DGND INV
X_U26         RW N04149  $G_DPWR $G_DGND INV
X_U18         RW N03779 S0 N03863 $G_DPWR $G_DGND AND3
X_U21         N03987 N01245 N04023 N04035 M_UN0003 $G_DPWR $G_DGND RSFF
X_U22         N04149 N03813 S1 N03987 $G_DPWR $G_DGND AND3
X_U24         RW N04035 S1 N47644 $G_DPWR $G_DGND AND3
X_U23         N04149 N04069 S1 N04023 $G_DPWR $G_DGND AND3
X_U17         N03869 N03809 S0 N03743 $G_DPWR $G_DGND AND3
X_U19         N03813 N03809  $G_DPWR $G_DGND INV
X_U15         N03731 N01245 N03743 N03779 M_UN0004 $G_DPWR $G_DGND RSFF
X_U25         N03813 N04069  $G_DPWR $G_DGND INV
X_U35         N05470 N05390 S1 N05344 $G_DPWR $G_DGND AND3
X_U37         N05104 N05390  $G_DPWR $G_DGND INV
X_U28         N05190 N05104 S0 N05052 $G_DPWR $G_DGND AND3
X_U34         N05470 N05104 S1 N05308 $G_DPWR $G_DGND AND3
X_U27         N05052 N01245 N05064 N05100 M_UN0005 $G_DPWR $G_DGND RSFF
X_U38         RW N05470  $G_DPWR $G_DGND INV
X_U36         RW N05356 S1 N05464 $G_DPWR $G_DGND AND3
X_U33         N05308 N01245 N05344 N05356 M_UN0006 $G_DPWR $G_DGND RSFF
X_U31         N05104 N05130  $G_DPWR $G_DGND INV
X_U32         RW N05190  $G_DPWR $G_DGND INV
X_U30         RW N05100 S0 N05184 $G_DPWR $G_DGND AND3
X_U29         N05190 N05130 S0 N05064 $G_DPWR $G_DGND AND3
X_U49         N06481 N06767  $G_DPWR $G_DGND INV
X_U46         N06847 N06481 S1 N06685 $G_DPWR $G_DGND AND3
X_U43         N06481 N06507  $G_DPWR $G_DGND INV
X_U44         RW N06567  $G_DPWR $G_DGND INV
X_U48         RW N06733 S1 N06841 $G_DPWR $G_DGND AND3
X_U47         N06847 N06767 S1 N06721 $G_DPWR $G_DGND AND3
X_U42         RW N06477 S0 N06561 $G_DPWR $G_DGND AND3
X_U50         RW N06847  $G_DPWR $G_DGND INV
X_U39         N06429 N01245 N06441 N06477 M_UN0007 $G_DPWR $G_DGND RSFF
X_U40         N06567 N06481 S0 N06429 $G_DPWR $G_DGND AND3
X_U41         N06567 N06507 S0 N06441 $G_DPWR $G_DGND AND3
X_U45         N06685 N01245 N06721 N06733 M_UN0008 $G_DPWR $G_DGND RSFF
X_U92         RW N14857  $G_DPWR $G_DGND INV
X_U59         N13457 N13377 S3 N13331 $G_DPWR $G_DGND AND3
X_U62         RW N13457  $G_DPWR $G_DGND INV
X_U60         RW N13343 S3 N13451 $G_DPWR $G_DGND AND3
X_U95         N15137 N15033 S3 N15011 $G_DPWR $G_DGND AND3
X_U75         N14135 N01245 N14171 N14183 M_UN0009 $G_DPWR $G_DGND RSFF
X_U81         N14391 N01245 N14451 N14463 M_UN0010 $G_DPWR $G_DGND RSFF
X_U61         N00548 N13377  $G_DPWR $G_DGND INV
X_U56         RW N13177  $G_DPWR $G_DGND INV
X_U70         N14017 N03813 S3 N13855 $G_DPWR $G_DGND AND3
X_U74         RW N14017  $G_DPWR $G_DGND INV
X_U55         N00548 N13117  $G_DPWR $G_DGND INV
X_U90         RW N14743 S2 N14851 $G_DPWR $G_DGND AND3
X_U63         N13599 N01245 N13611 N13647 M_UN0011 $G_DPWR $G_DGND RSFF
X_U76         N14297 N05104 S2 N14135 $G_DPWR $G_DGND AND3
X_U67         N03813 N13677  $G_DPWR $G_DGND INV
X_U69         N13855 N01245 N13891 N13903 M_UN0012 $G_DPWR $G_DGND RSFF
X_U87         N14695 N01245 N14731 N14743 M_UN0013 $G_DPWR $G_DGND RSFF
X_U86         RW N14577  $G_DPWR $G_DGND INV
X_U97         N06481 N15033  $G_DPWR $G_DGND INV
X_U72         RW N13903 S3 N14011 $G_DPWR $G_DGND AND3
X_U84         RW N14463 S3 N14571 $G_DPWR $G_DGND AND3
X_U85         N05104 N14473  $G_DPWR $G_DGND INV
X_U89         N14857 N14777 S2 N14731 $G_DPWR $G_DGND AND3
X_U53         N13177 N13117 S2 N13051 $G_DPWR $G_DGND AND3
X_U58         N13457 N00548 S3 N13295 $G_DPWR $G_DGND AND3
X_U68         RW N13737  $G_DPWR $G_DGND INV
X_U52         N13177 N00548 S2 N13039 $G_DPWR $G_DGND AND3
X_U66         RW N13647 S2 N13731 $G_DPWR $G_DGND AND3
X_U94         N15137 N06481 S3 N14951 $G_DPWR $G_DGND AND3
X_U77         N14297 N14217 S2 N14171 $G_DPWR $G_DGND AND3
X_U51         N13039 N01245 N13051 N13087 M_UN0014 $G_DPWR $G_DGND RSFF
X_U54         RW N13087 S2 N13171 $G_DPWR $G_DGND AND3
X_U78         RW N14183 S2 N14291 $G_DPWR $G_DGND AND3
X_U83         N14577 N14473 S3 N14451 $G_DPWR $G_DGND AND3
X_U57         N13295 N01245 N13331 N13343 M_UN0015 $G_DPWR $G_DGND RSFF
X_U96         RW N15023 S3 N47095 $G_DPWR $G_DGND AND3
X_U73         N03813 N13937  $G_DPWR $G_DGND INV
X_U80         RW N14297  $G_DPWR $G_DGND INV
X_U91         N06481 N14777  $G_DPWR $G_DGND INV
X_U64         N13737 N03813 S2 N13599 $G_DPWR $G_DGND AND3
X_U71         N14017 N13937 S3 N13891 $G_DPWR $G_DGND AND3
X_U79         N05104 N14217  $G_DPWR $G_DGND INV
X_U65         N13737 N13677 S2 N13611 $G_DPWR $G_DGND AND3
X_U82         N14577 N05104 S3 N14391 $G_DPWR $G_DGND AND3
X_U88         N14857 N06481 S2 N14695 $G_DPWR $G_DGND AND3
X_U98         RW N15137  $G_DPWR $G_DGND INV
X_U93         N14951 N01245 N15011 N15023 M_UN0016 $G_DPWR $G_DGND RSFF
X_U100         N06561 N06841 N14851 N47095 OUTPUT3 $G_DPWR $G_DGND OR4
X_U101         N00800 N01841 N13171 N13451 OUTPUT2 $G_DPWR $G_DGND OR4
X_U102         N03863 N47644 N13731 N14011 OUTPUT1 $G_DPWR $G_DGND OR4
X_U103         N05184 N05464 N14291 N14571 OUTPUT0 $G_DPWR $G_DGND OR4
X_U108         OUT_1 N62425 N62349 $G_DPWR $G_DGND OR2
X_U109         OUT_0 N62558 N62361 $G_DPWR $G_DGND OR2
X_U110         OUT_1 N62425  $G_DPWR $G_DGND INV
X_U111         OUT_0 N62558  $G_DPWR $G_DGND INV
X_U112         N62361 N62349 N06481  $G_DPWR $G_DGND AND2
X_U113         N63965 N64118 N00548  $G_DPWR $G_DGND AND2
X_U115         OUT_0 N63977  $G_DPWR $G_DGND INV
X_U114         OUT_0 N63977 N63965 $G_DPWR $G_DGND OR2
X_U117         N64433 N64515 N03813  $G_DPWR $G_DGND AND2
X_U121         N673170 N64118  $G_DPWR $G_DGND INV
X_U116         CLK OUT_1 N673170 $G_DPWR $G_DGND XOR
X_U123         N100331 OUT_1 N674620 $G_DPWR $G_DGND XOR
X_U122         N674620 N64515  $G_DPWR $G_DGND INV
X_U125         N100331 OUT_0 N675660 $G_DPWR $G_DGND XOR
X_U124         N675660 N64433  $G_DPWR $G_DGND INV
X_U129         CLK OUT_0 N687540 $G_DPWR $G_DGND XOR
X_U127         N100331 OUT_1 N687060 $G_DPWR $G_DGND XOR
X_U128         N687540 N68788  $G_DPWR $G_DGND INV
X_U130         N68788 N68714 N05104  $G_DPWR $G_DGND AND2
X_U126         N687060 N68714  $G_DPWR $G_DGND INV
X_U140         OUT_1 OUT_0 S3  $G_DPWR $G_DGND AND2
X_U142         OUT_0 N77344  $G_DPWR $G_DGND INV
X_U141         OUT_1 N77340  $G_DPWR $G_DGND INV
X_U139         OUT_1 N77344 S2  $G_DPWR $G_DGND AND2
X_U143A         0 0 CLK N77628 N77628 OUT_0 M_UN0017 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         N77628 0 5Vdc
X_U137         N77340 N77344 S0  $G_DPWR $G_DGND AND2
X_U138         N77340 OUT_0 S1  $G_DPWR $G_DGND AND2
X_U143B         0 0 CLK OUT_0 OUT_0 OUT_1 M_UN0018 $G_CD4000_VDD $G_CD4000_VSS
+  CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 1
+ +8.3ms 0
+REPEAT FOREVER
+ +8.3ms 1
+  +8.3ms 0
+ ENDREPEAT
X_U144         CLK RW  $G_DPWR $G_DGND INV
X_U145         CLK N01245  $G_DPWR $G_DGND INV
X_U148         CLK N100331  $G_DPWR $G_DGND INV
X_M1         OUTPUT3 MEM3 N116300 MEMRISTOR
R_R1         N1172721 N116300  1k  
R_R2         0 MEM3  1k  
V_V2         N1172721 0 0.5Vdc
V_V3         N1271011 0 0.5Vdc
R_R4         0 MEM2  1k  
X_M2         OUTPUT2 MEM2 N127215 MEMRISTOR
R_R3         N1271011 N127215  1k  
R_R5         N1275191 N127633  1k  
V_V4         N1275191 0 0.5Vdc
X_M3         OUTPUT1 MEM1 N127633 MEMRISTOR
R_R6         0 MEM1  1k  
R_R8         0 MEM0  1k  
V_V5         N1277921 0 0.5Vdc
X_M4         OUTPUT0 MEM0 N127906 MEMRISTOR
R_R7         N1277921 N127906  1k  
